US09145415B2
To a solution of 1-Boc-3-piperidinone (256 mg) and 3-nitroaniline (190 mg) in methylene chloride (7 mL), sodium triacetoxyborohydride (438 mg) and acetic acid (80 μL) were added at room temperature, and the mixture was stirred at the same temperature for 15 hours. To the reaction mixture, ethyl acetate and saturated aqueous sodium hydrogencarbonate were added. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 100 to 50% hexane in ethyl acetate) to obtain tert-butyl 3-((3-nitrophenyl)amino)piperidine-1-carboxylate (C21, 229 mg).

reactant | 1-Boc-3-piperidinone | 256 mg | C(=O)(OC(C)(C)C)N1CC(CCC1)=O | C10H17NO3
reactant | 3-nitroaniline | 190 mg | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | sodium triacetoxyborohydride | 438 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 7 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 80 μL | C(C)(=O)O | C2H4O2
product | tert-butyl 3-((3-nitrophenyl)amino)piperidine-1-carboxylate | 229 mg | [N+](=O)([O-])C=1C=C(C=CC1)NC1CN(CCC1)C(=O)OC(C)(C)C | C16H23N3O4
